US08026257B2
tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
Prepared according to the procedure used to prepare tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate using tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate as the starting material. 1H-NMR (CDCl3, 500 MHz) δ 10.01 (bs, 1H), 7.90 (s, 1H), 7.60 (d, J=1.5 Hz, 1H), 7.25 (dd, J=8.9, 5.2 Hz, 2H), 7.04 (dd, J=8.6, 8.5 Hz, 2H), 6.99 (d, J=1.5 Hz, 1H), 4.46 (t, J=5.1 Hz, 1H), 3.60-3.85 (m, 2H), 3.56 (m, 2H), 3.44 (d, J=8.9 Hz, 1H), 3.32 (d, J=8.9 Hz, 1H), 3.27 (s, 3H), 3.05 (m, 1H), 2.98 (m, 1H), 2.23 (m, 1H), 2.05 (m, 1H), 1.86 (m, 1H), 1.76 (m, 1H), 1.43 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.6 (d, J=247 Hz), 155.0, 138.12, 138.09, 136.6, 133.7, 128.7 (d, J=7.7 Hz), 126.1, 125.3, 124.7, 123.6, 119.6, 115.6 (d, J=20), 81.6, 79.6, 79.4, 76.0, 59.5, 41.4, 40.0 (br), 32.4, 32.1, 28.5.

reactant | tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C27H31ClFN3O5
reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(COC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H47ClFN3O5Si
product | tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(COC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C27H33ClFN3O4
